data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7290,"CC(C)(C)OC(=O)NCC(=O)[O-].CC(C)NC(=[NH+]C(C)C)O[C:1](CNC(=O)OC(C)(C)C)=[O:2].CCC1(O)C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=[N:3]C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1723,"CC(C[OH:1])(C[O+:2]=[CH:3]C1=CC=CC=C1)C(=O)O.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6227,"C#CCCC12CC([Si](C)(C)C)C(=O)CC1([O-:1])CCC2C.C[O:2][H:3].[OH][K]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5995,"COC1=CC=C([P:1](C2=CC=C(OC)C=C2)C2=CC=C(OC)C=C2)C=C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5793,"CO[C:1](O)([N:2](C)C)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7916,"C[C:1](=[CH:2]CC1CCCCC1=O)[O-:3].[H:4][OH:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1441,"C[C+:1]1C=CO[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5847,"CC(CCCO[Si](C)(C)C(C)(C)C)C1CCC=C1[O:1][Li-][NH+](C(C)C)C(C)C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,6307,"CC(C)=[N+:1](O)[H:2].O[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3865,"CCC(C1=CC=CC=C1)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,771,"CC(O)(C1=CC(Br)=CC=C1)[CH:1]([H:2])[C:3](C1=CC(Br)=CC=C1)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5724,"CP(C)(C)(Br)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4095,"CCOC(=O)C(C)[O-:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(O)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,1589,"C1=CC=C2C(=C1)C[C+:1]1C3=C(C=CC=C3)C[C:2]21[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2243,"CC[C:1]1(C)C(C)[OH+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5355,"C1=CC=[N:1]C=C1.COC1=C2C(=CC=C1)C1=CC=CC=C1N2C(COS(=O)(=O)C(F)(F)F)C1=CC=CC=C1.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,0,"OCC=CCC1=C([NH2:1])C=CC=C1.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1811,"CC1(C)OC(=O)[CH:1]([H:2])[C:3](=[O:4])O1.CCCCCCCCC(=O)[N+]1=CC=C(N(C)C)C=C1.CN(C)C1=CC=[N:5]C=C1.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3067,"CCO[P:1](C)(C)(C)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6418,"CCC(C1CCCCC1)[NH:1]CC.CCCC[C:2](C(C)CCC1CCCC1)=[O:3].CC[NH2+]C(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2455,"C=CCN.C=CC[NH:1][CH:2](C1=CC=C(OC)C=C1)[OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3068,"CC[O:1]C1=CC=CC=C1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1490,"CC1(C)OCC[O+:1]1[H:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.C[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3574,"COC(=O)CCC(C(C)=O)C(C)C(N)[OH:1].O=C([O-])O.[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2722,"CCC[N:1]1C(=O)C2=C(C=CC=C2)C1(O)O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4771,"CC(=O)O.CC1=CC=C(C2=CC(C(=O)CC[C:1](C)=[O:2])=CC(C3=CC=C(C)N3)=C2)N1.O=C[O-].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1175,"[Cl-].[O-]C1([OH+:1][K:2])C2CCCC21.[OH2+][K]|((2, 1), 1)"
train,pmechdb_split_0,0,10307,"CCCCCC1=C[C:1](=[OH+:2])[C:3](=[CH:4]C=C(C)CCC=C(C)C)C(O)=C1.[Cl-].[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2089,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.FC1=CC(C#CC[O:2][H:3])=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5262,"CC(=O)O.CC1=CC=C(C2=CC(C3=CC=C(C)N3)=CC([C:1](CC=C(C)[NH2:2])=[O:3])=C2)N1.O.O=C[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10115,"[Cl][Sn-]([Cl])([Cl])([Cl])[O:1][CH+:2]C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,3761,"CC(C)(C)[O-:1].CC(C)C(Br)C[CH:2]([C:3](C)(C)[H:4])[Br:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,4144,"BrC(Br)Br.C#CCOC1=CC(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])=CC(OCC#C)=C1|((1, 2), 2)"
train,pmechdb_split_0,0,6520,"C[OH:1].C[Si-](C)(C)(Cl)[O+:2](C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8131,"BrC(Br)Br.ClC1=C(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C2C=CC=CC2=N1|((1, 2), 2)"
train,pmechdb_split_0,0,39,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCC1=CC(C)=C([S+:1]2C[CH:2]2C)C(C)=C1.CO.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,30,"CCC=[CH:1][Mg:2][Br].COC(=O)C(Cl)[N:3](C(=O)OCC1=CC=CC=C1)[H:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1492,"C[N:1]1CC[O+:2]([B-](F)(F)F)[CH:3]1C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1563,"CNC(=O)C(C)N[C:1](C(C)NC(=O)OC)([O:2][C:3](NC(C)C)=[NH+:4]C(C)C)[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8167,"CCC=[O+][Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,10301,"CN[S:1](C)=[O:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9195,"[H:1][CH2:2][CH:3]=[OH+:4].[OH2:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10167,"N[CH:1]=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1796,"CC1(C)C2C(OS(C)(=O)=O)C(C)(C)[C:1](=[O:2])C21.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3608,"C1CCC(N=C(NC2CCCCC2)O[C:1](CCC[NH2:2])=[O:3])CC1|(2, 1);((1, 3), 3)"
